US09024032B2
To a 100 mL round-bottom flask containing 2.34 g (4.66 mmol) 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)phenyl]-2-(1-hydroxyethyl)-5-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one was added 25 mL 1:1 (v/v) dichloromethane:trifluoroacetic acid and the solution stirred at room temperature for 30 min. Concentration in vacuo, purification by reversed phase HPLC (2 cm×5 cm C18, acetonitrile-water gradient, 0.05% TFA added), and elution from an SCX column (50 g, sulfonic acid, rinsed with MeOH, eluted with 1 N NH3 in MeOH) afforded 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)phenyl]-5-hydroxy-2-(1-hydroxyethyl)pyridin-4(1H)-one. 1H NMR (600 MHz, DMSO, 50° C.): δ 11.96 (s, 1 H); 8.35 (s, 1 H); 7.75 (dd, J=7.9, 7.7 Hz, 1 H); 7.70 (d, J=7.8 Hz, 1 H); 7.60-7.55 (m, 3 H); 7.34 (s, 1 H); 6.46 (s, 1 H); 6.29 (s, 1 H); 4.41 (q, J=6.4 Hz, 1 H); 1.20 (d, J=6.4 Hz, 3 H). HRMS (FT/ICR) Calc (M+H)+ 382.0953 found 382.0955.

reactant | 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)phenyl]-2-(1-hydroxyethyl)-5-[(4-methoxybenzyl)oxy]pyridin-4(1H)-one | 4.66 mmol, 2.34 g | ClC=1C(=C2C(=NC1)NC=C2)C=2C=C(C=CC2)N2C(=CC(C(=C2)OCC2=CC=C(C=C2)OC)=O)C(C)O | C28H24ClN3O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1-[3-(5-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)phenyl]-5-hydroxy-2-(1-hydroxyethyl)pyridin-4(1H)-one | ClC=1C(=C2C(=NC1)NC=C2)C=2C=C(C=CC2)N2C(=CC(C(=C2)O)=O)C(C)O | C20H16ClN3O3
